US08114400B2
Ethyl (2E)-[(2-fluorobenzyl)hydrazono]acetate
(2-Fluorobenzyl)hydrazine (1.00 g, 7.14 mmol) is suspended in water (3 ml), and the mixture is brought to pH 4 with 4N hydrochloric acid. It is then cooled in an ice bath, and a solution of ethyl chloro(ethoxy)acetate (1.37 g, 8.21 mmol) in dioxane (10 ml) is added. The mixture is stirred at RT for 1 h, then made weakly alkaline (pH 8) with 1N sodium hydroxide solution and extracted with ethyl acetate. The organic phase is dried over sodium sulfate. The crude product is purified by chromatography on silica gel (eluent: dichloromethane with increasing methanol content). 1.40 g (88% of theory) of the desired compound are obtained.

reactant | (2-Fluorobenzyl)hydrazine | 7.14 mmol, 1.00 g | FC1=C(CNN)C=CC=C1 | C7H9FN2
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | ethyl chloro(ethoxy)acetate | 8.21 mmol, 1.37 g | ClC(C(=O)OCC)OCC | C6H11ClO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | Ethyl (2E)-[(2-fluorobenzyl)hydrazono]acetate | FC1=C(CN\N=C\C(=O)OCC)C=CC=C1 | C11H13FN2O2
